US06930185B2
6-(1-Pyrrolidinylmethyl)-2-naphthol Hydrobromide
A solution of the 1-[(6-methoxy-2-naphthyl)methyl]pyrrolidine (3.63 g, 15.0 mmol) obtained in Reference Example 21 in 48% hydrobromic acid (75 ml) was stirred at 100° C. for 6 hours. The reaction solution was diluted with water, the produced crystals were collected, and washed with water, tetrahydrofuran and diisopropyl ether to obtain the titled compound (2.45 g) as a colorless powder.

reactant | 1-[(6-methoxy-2-naphthyl)methyl]pyrrolidine | 15.0 mmol, 3.63 g | COC=1C=C2C=CC(=CC2=CC1)CN1CCCC1 | C16H19NO
reactant | hydrobromic acid | 75 ml | Br | BrH
solvent | water | O | H2O
product | 6-(1-Pyrrolidinylmethyl)-2-naphthol Hydrobromide | 2.45 g | Br.N1(CCCC1)CC=1C=C2C=CC(=CC2=CC1)O | InChI=1S/C15H17NO.BrH/c17-15-6-5-13-9-12(3-4-14(13)10-15)11-16-7-1-2-8-16;/h3-6,9-10,17H,1-2,7-8,11H2;1H
